US04218477
A. Synthesis of 4-butoxy-2,6-dimethylazobenzene
To a solution of sodium (2.0 g, 0.09 mole) in absolute ethanol (119 ml) was added 2,6-dimethyl-4-hydroxyazobenzene (18.3 g, 0.08 mole) prepared according to B. C. Saunders and G. H. R. Watson, Biochem. J. 46:629-233 (1950). To the resulting orange-red solution was added 1-bromobutane (22.3 g, 0.162 mole) slowly from a separatory funnel and the mixture was refluxed for five hours. When cool, the precipitated sodium bromide was filtered off and the filtrate was evaporated to dryness. The residue was taken up in ether and the ether solution was extracted, first with 0.5 M sodium hydroxide and then once with water. The ether phase was dried (Na2SO4), filtered, and evaporated to dryness. The yield was over 90%. This material is satisfactory for the next step. After recrystallization from 95% ethanol, it melted at 47°-47.5° C. Calcd. for C18H22N2O: C 76.6, H 7.85, N 9.92. Found: C 76.7, H 7.84, N 9.86.

reactant | sodium | 0.09 mole, 2.0 g | [Na] | Na
reactant | 2,6-dimethyl-4-hydroxyazobenzene | 0.08 mole, 18.3 g | CC1=C(C(=CC(=C1)O)C)N=NC1=CC=CC=C1 | C14H14N2O
reactant | 1-bromobutane | 0.162 mole, 22.3 g | BrCCCC | C4H9Br
solvent | ethanol | 119 ml | C(C)O | C2H6O
product | 4-butoxy-2,6-dimethylazobenzene | C(CCC)OC1=CC(=C(C(=C1)C)N=NC1=CC=CC=C1)C | C18H22N2O
